US06919356B2
Part C: Preparation of cis-4-benzylaminopiperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
A solution of crude 4-benzylamino-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (3.86 g, approximately 10 mmol) in acetonitrile (30 mL) and acetic acid (20 mL) was stirred on an ice bath and treated with sodium triacetoxyborohydride (4.83 g, 22.5 mmol). After 1.75 hours, additional sodium triacetoxyborohydride (4.82 g, 22.5 mmol) was added. After 2.25 hours, the mixture was concentrated under vacuum, and the residue was diluted with 1.0 N aqueous sodium hydroxide (50 mL), and the mixture was stirred on ice and the pH was adjusted to 10 with 50% aqueous sodium hydroxide. The mixture was extracted with dichloromethane, and the organic phase was dried over sodium sulfate and concentrated to provide an orange gum. Purification by flash chromatography with 40% ethyl acetate in hexane provided a colorless viscous oil (2.86 g, 82% for two steps). 1H NMR (300 MHz, CDCl3) δ7.4-7.3 (m, 5H), 4.03 (m, 1H), 3.88 (ab pattern, 2H), 3.73 (m, 1H), 3.71 (s, 3H), 3.38 (m, 1H), 3.20 (m, 1H), 3.12 (m, 1H), 2.90 (m, 1H), 1.91 (m, 1H), 1.78 (m, 1H), 1.46 (s, 9H).

reactant | 4-benzylamino-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | approximately 10 mmol, 3.86 g | COC(=O)C=1CN(CCC1NCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H26N2O4
reactant | sodium triacetoxyborohydride | 22.5 mmol, 4.83 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 22.5 mmol, 4.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | cis-4-benzylaminopiperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)[C@@H]1CN(CC[C@@H]1NCC1=CC=CC=C1)C(=O)OC(C)(C)C | C19H28N2O4
